US08044078B2
b.) (1,3-Benzoxazol-2-yloxy)acetic acid
The solution of 0.2 g (0.9 mmol) ethyl-(1,3-benzoxazol-2-yloxy)acetate and 0.4 g (1 mmol) sodium hydroxide in 1 ml water is stirred for 2 hours at room temperature, then extracted with 3×5 ml chloroform. The united organic phase is dried over sodium sulfate and evaporated in vacuum to obtain 54 mg title compound as an oil. LC-MS[MH+]=194 (C9H7NO4 193.16)

reactant | ethyl-(1,3-benzoxazol-2-yloxy)acetate | 0.9 mmol, 0.2 g | C(C)OC(COC=1OC2=C(N1)C=CC=C2)=O | C11H11NO4
reactant | sodium hydroxide | 1 mmol, 0.4 g | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | (1,3-Benzoxazol-2-yloxy)acetic acid | 54 mg | O1C(=NC2=C1C=CC=C2)OCC(=O)O | C9H7NO4
